US05672742
200 g (0.88 moles) of heptafluoroisobutenyl methyl ether (purity: 93%) was charged into a three-necked flask having a capacity of 300 ml, provided with a Dimroth condenser, a stirrer and a gas feed tube, and a brine at -20° C. was passed through the Dimroth condenser. About 340 liters of ozone-containing oxygen gas (ozone concentration: 125 mg/liter) was bubbled through the ether Compound at 0° C. with stirring over 11 hours 18 minutes (total ozone amount: about 0.88 moles). After the reaction, 134.8 g of the reaction product was recovered therefrom and distilled, whereby 73.0 g of perfluoro(2-methyl-1,2-epoxypropyl) methyl ether was obtained as a fraction having a boiling point of 82° to 85° C. (yield: 36.5%).

reactant | heptafluoroisobutenyl methyl ether | 0.88 moles, 200 g | COC(=C(C(F)(F)F)C(F)(F)F)F | C5H3F7O
reactant | ozone | 340 liters | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
solvent | brine | [Cl-].[Na+].O
product | perfluoro(2-methyl-1,2-epoxypropyl) methyl ether | 73.0 g, yield: 36.5% | COC1(C(C(F)(F)F)(O1)C(F)(F)F)F | C5H3F7O2
